2171-02-14 11:19:00 Physician Attending Progress Note
Chief Complaint: Edema, SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 MULTI LUMEN - START [**2171-2-13**] 08:51 PM
   Kept on dilt drip, BP borderine so was not diuresed further overnight,
   TTE performed this am. SOb improved. Pain in scrotal area, received
   oxycodone.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2171-2-13**] 08:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2171-2-14**] 12:00 AM
   Vancomycin - [**2171-2-14**] 09:06 AM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2171-2-14**] 10:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-2-14**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 95 (89 - 112) bpm
   BP: 84/53(61) {78/53(48) - 110/81(92)} mmHg
   RR: 20 (20 - 32) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 12 (11 - 30)mmHg
   Total In:
                                                                  3,729 mL
                                                                  1,778 mL
   PO:
                                                                    500 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    229 mL
                                                                  1,578 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    965 mL
   Urine:
                                                                    330 mL
                                                                    965 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,699 mL
                                                                    813 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   FiO2: 95% HFFM
   SpO2: 92%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bilaterally),
   paradoxical abdominal movement
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, Tender: midly diffusely
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, bright red edema in the LE bilaterally
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.8 g/dL
   214 K/uL
   99 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.3 mEq/L
   46 mg/dL
   101 mEq/L
   134 mEq/L
   35.0 %
   13.5 K/uL
        [image002.jpg]
                             [**2171-2-13**]  07:30 PM
                             [**2171-2-13**]  10:14 PM
                             [**2171-2-14**]  04:16 AM
   WBC
   14.3
   13.5
   Hct
   38.1
   35.0
   Plt
   206
   214
   Cr
   1.2
   1.1
   TropT
   0.02
   Glucose
   106
   99
   Other labs: PT / PTT / INR:23.5/58.3/2.2, CK / CKMB /
   Troponin-T:75//0.02, ALT / AST:136/166, Alk Phos / T Bili:173/1.9,
   Differential-Neuts:85.5 %, Lymph:10.2 %, Mono:3.5 %, Eos:0.5 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.7 g/dL, LDH:296 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: Chest CT reviewed bilateral pleural effusions small, small
   subsegmental PE inteh RLL, focus of GGO in the LUL.
   Microbiology: cx negative to date.
   Assessment and Plan
   Dyspnea: evidence for EF of 20% on echo with associated RV failure.
   Unclear etiology, CAD vs EtOH vs viral vs toxic vs other. Will consult
   cardiology. Will diurese gently, CVP in the high teens to 20s. Also has
   paradoxical abdominal movement, ? diaphrgamatic injury/weakness will
   need SNIF test/ MIP/MEP supine and upright down the line.
   Hypoxemia: suspect pulmonary edema athough CT not very impressive for
   this, pulmonary hypertension contirbuting likely, check ABG, likely
   negligible contribution from PE and small LUL infiltrate. continue
   heparin drip for now.
   Atrial Fibrillation: d/c dilt drip as he is in decompensated heart
   failure
   Cellulitis: continue vanco/zosyn, wound care consult
   Pain control scrotal and LE edema: continue oxycodone prn
   Elevated LFTs: likely congestive, repelete Vit K
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:
   Lines:
   16 Gauge - [**2171-2-13**] 08:50 PM
   Multi Lumen - [**2171-2-13**] 08:51 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr.[**Name (NI) 11614**]
   note above, including assessment and plan. I would add:
   57 yo male with hernia repair with 1 year progressive DOE acutely worse
   over the past several days admitted with hypoxia, leukocytosis and
   peripheral edema. Echo demonstrates biventricular failure with Ef of
   20%- no segmental WMA
s, so appears global, presumably
   viral/idiopathic. Currently in rapid afib, mildly hypotensive.
   Problem [**Name (NI) 670**]:
   Hypoxia/acute respiratory distress with decompensated systolic heart
   failure
   Hypotension, presumptive cardiac in the setting of low ef and rapid
   afib
   Leukocytosis, leg cellulitis the most likely source
   Atrial fibrillation
   LFT abnormalities- suspect hepatic congestion
   Elevated INR
   Appreciate input from cardiology consult team. He needs diuresis,
   though this may be difficult given borderline BP. Will wean oxygen as
   tolerated and check ABG to assess current level of hypoxia. Loss of
   atrial kick further compromsing cardiac function and forward flow- plan
   Amiodarone load and lasix as tolerated. Suspect the elevated INR more
   from malnutrition as n
l albumin argues against liver synthetic
   dysfunction- will re-check after vitamin K.
   Pt is critically ill.
   Total time spent: 55 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2171-2-14**] 12:51 ------

2171-02-15 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2171-2-14**] 08:34 AM
 ARTERIAL LINE - START [**2171-2-14**] 08:00 PM
   - started on amio gtt per cards; still in afib
   - O2 sat frequently in mid- to high 80s; mentating perfectly well. CXR
   unremarkable
   - SBP unstable from 70s to 100s in the afternoon, receiving multiple
   small NS boluses (given EF 20%)
   - a-line placed
   - CPAP was discussed but patient declined, and O2 sat improved to low
   90s after washing and repositioning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2171-2-13**] 08:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2171-2-14**] 12:00 AM
   Vancomycin - [**2171-2-14**] 09:06 AM
   Cefipime - [**2171-2-14**] 10:00 PM
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Amiodarone - [**2171-2-14**] 02:18 PM
   Heparin Sodium - [**2171-2-14**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-2-15**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 102 (86 - 107) bpm
   BP: 102/69(79) {92/62(70) - 120/76(89)} mmHg
   RR: 26 (20 - 40) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 23 (12 - 26)mmHg
   Total In:
                                                                  4,013 mL
                                                                    786 mL
   PO:
                                                                    650 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  3,363 mL
                                                                    536 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    140 mL
   Urine:
                                                                  1,690 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,323 mL
                                                                    646 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.44/27/66//-3
   PaO2 / FiO2: 66
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   217 K/uL
   11.8 g/dL
   99 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.3 mEq/L
   46 mg/dL
   101 mEq/L
   134 mEq/L
   36.8 %
   14.3 K/uL
        [image002.jpg]
                             [**2171-2-13**]  07:30 PM
                             [**2171-2-13**]  10:14 PM
                             [**2171-2-14**]  04:16 AM
                             [**2171-2-14**]  03:21 PM
                             [**2171-2-14**]  09:22 PM
                             [**2171-2-15**]  03:32 AM
                             [**2171-2-15**]  03:40 AM
   WBC
   14.3
   13.5
   14.3
   Hct
   38.1
   35.0
   36.8
   Plt
   [**Telephone/Fax (3) 11625**]
   Cr
   1.2
   1.1
   TropT
   0.02
   TCO2
   19
   19
   19
   Glucose
   106
   99
   Other labs: PT / PTT / INR:22.2/94.0/2.1, CK / CKMB /
   Troponin-T:75//0.02, ALT / AST:136/166, Alk Phos / T Bili:173/1.9,
   Differential-Neuts:85.5 %, Lymph:10.2 %, Mono:3.5 %, Eos:0.5 %, Lactic
   Acid:2.1 mmol/L, Albumin:3.7 g/dL, LDH:296 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 PNEUMONIA, OTHER
 PULMONARY EMBOLISM (PE), ACUTE
 CELLULITIS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Mr. [**Known lastname **] is a 57 year-old man with a history of hypertension who
   presents with progressive dyspnea, evidence of R heart failure, and
   hypoxia.
   .
   # Right heart failure:  Clinically, patient appears to have R>L heart
   failure given extensive subcutaneous edema without crackles or severe
   pulmonary edema on CT scan.  Differential includes cor pulmonale
   secondary to intrinsic lung disease.  However, no obvious interstitial
   process on CT. Also possible would be PA HTN, either primary or
   secondary to recurrent pulmonary emboli.  Left heart failure in the
   setting of tachycardia leading to R heart failure is also possible,
   although less likely given unimpressive lung exam and CT.
   - TTE in AM to evaluate cardiac function further including estimating
   PA pressures
   - obtain old TTE records from [**Hospital 11607**]
   - control HR as below
   - will need diuresis after BP stabilizes (holding off for tonight given
   tenuous BP and need for diltiazem gtt, as below)
   # hypoxia:  Differential includes primary interstitial or vascular lung
   disease as above, L heart failure,pneumonia, PE.  No known history of
   cardiac disease apart from HTN, but he may have developed failure in
   the setting of poor tolerance of rapid rate.  Regarding the possibility
   of pneumonia, he does have consolidation on CT had significant
   leukocytosis with left shift as well as an increase in sputum
   production, although afebrile. PE of this size unlikely to be
   contributing.
   - TTE in the AM to evaluate EF
   - diuresis may be helpful when tolerated to eliminate improve fluid
   component
   - broad-spectrum antibioitics with vancomycin and zosyn for possible
   PNA
   - continue heparin gtt for now until it is more clear whether PE may be
   contributing (also has afib and ? LAA clot so needs anticoagulation
   anyway)
   - sputum cultures
   - blood cultures
   - urine cultures
   .
   # Hypotension:  Differential includes distributive vs cardiogenic
   shock.  Could have distributive shock from sepsis-like picture.
   However, rapid HR and the CCB that he has been given to control HR are
   likely large contributing factors as well.
   - blood, urine, sputum cultures
   - treat
   - continue IVF (gingerly) or low threshold to start levophed to
   maintain MAP >65, UOP >65 cc/h, CVP 8-12
   .
   # Atrial fibrillation:  Cause may be underlying septic process vs
   primary tachycardia related to septic picture.  Not therapeutically
   anticoagulated, although INR elevated not After 10 mg IV diltiazem
   followed by diltiazem gtt (initially at 15 mg/h, now at 5 mg/h), rate
   control is improved. afib - got 10 IV dilt, now on HR 100 on dilt gtt
   at 5 (15 at highest).  Also got 1.5 L IVF.  Pressures 90s-100s
   systolic.
   - continue diltiazem gtt overnight
   - if BP holds will transition to PO diltiazem in AM
   .
   # LE cellulitis: likely initiated by burn injury, now worsening
   secondary to subcutaneous edema
   - vancomycin and zosyn
   - blood cultures
   .
   # PNA:  appears to be infiltrate on CT rather than simply atelectasis
   around effusion.  Afebrile but leukocytosis and increased sputum.
   Received unasyn, vancomycin, levofloxacin in the ED.
   - vancomycin and zosyn
   .
   # Elevated LFTs:  He may have congestive hepatopathy, but INR elevation
   indicates some degree of synthetic dysfunction.  Last LFTs NL at [**Hospital 11608**] in [**2165**].  No other known hx liver disease.  He does admit to
   significant tylenol use but uncertain how much.
   - hepatitis panel
   - check albumin
   - add-on acetaminophen lefel
   - continue to trend
   - fractionate bilirubin
   .
   # ? L atrial filling defect:  seen on CT.  Concerning for thrombus in
   the setting of afib.
   - TTE in AM to evaluate
   - heparin gtt as above for now
   .
   # PE: unlikely to be clinically meaningful
   .
   # FEN: cardiac diet PO
   # PPX: heparin gtt
   # ACCESS: PIV
   # CODE:  Full, discussed
   # CONTACT:  patient
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 3031**]
   [x ] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2171-2-13**] 08:50 PM
   Multi Lumen - [**2171-2-13**] 08:51 PM
   Arterial Line - [**2171-2-14**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-02-15 11:24:00 Physician Attending Progress Note
Chief Complaint: Shortness of breath
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 TRANS thoracic ECHO - At [**2171-2-14**] 08:34 AM
 ARTERIAL LINE - START [**2171-2-14**] 08:00 PM
   left aline placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2171-2-13**] 08:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2171-2-14**] 12:00 AM
   Vancomycin - [**2171-2-15**] 08:50 AM
   Cefipime - [**2171-2-15**] 10:06 AM
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Amiodarone - [**2171-2-14**] 02:18 PM
   Heparin Sodium - [**2171-2-14**] 11:00 PM
   Other medications:
   vanco, cefepime, amiodarone, heparin iv, dilt off.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-2-15**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 117 (86 - 117) bpm
   BP: 112/96(102) {92/62(70) - 120/96(102)} mmHg
   RR: 22 (20 - 40) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 23 (18 - 23)mmHg
   Total In:
                                                                  4,013 mL
                                                                  1,351 mL
   PO:
                                                                    650 mL
                                                                    370 mL
   TF:
   IVF:
                                                                  3,363 mL
                                                                    981 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    705 mL
   Urine:
                                                                  1,690 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,323 mL
                                                                    646 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 6L NC
   SpO2: 92%
   ABG: 7.44/27/66/16/-3
   PaO2 / FiO2: 66
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : bilateral bases)
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, with hyperremia
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.8 g/dL
   217 K/uL
   114 mg/dL
   1.4 mg/dL
   16 mEq/L
   4.8 mEq/L
   49 mg/dL
   102 mEq/L
   132 mEq/L
   36.8 %
   14.3 K/uL
        [image002.jpg]
                             [**2171-2-13**]  07:30 PM
                             [**2171-2-13**]  10:14 PM
                             [**2171-2-14**]  04:16 AM
                             [**2171-2-14**]  03:21 PM
                             [**2171-2-14**]  09:22 PM
                             [**2171-2-15**]  03:32 AM
                             [**2171-2-15**]  03:40 AM
   WBC
   14.3
   13.5
   14.3
   Hct
   38.1
   35.0
   36.8
   Plt
   [**Telephone/Fax (3) 11625**]
   Cr
   1.2
   1.1
   1.4
   TropT
   0.02
   TCO2
   19
   19
   19
   Glucose
   106
   99
   114
   Other labs: PT / PTT / INR:22.2/94.0/2.1, CK / CKMB /
   Troponin-T:75//0.02, ALT / AST:136/166, Alk Phos / T Bili:173/1.9,
   Differential-Neuts:85.5 %, Lymph:10.2 %, Mono:3.5 %, Eos:0.5 %, Lactic
   Acid:2.1 mmol/L, Albumin:3.7 g/dL, LDH:296 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Imaging: no repeat
   Assessment and Plan
   CHF/cardiogenic shock: improved with better rate control, monitor U/O
   off lasix, if U/o tapers to lower than 100 an hour will add lasix
   Pneumonia/cellulitis: will change antibiotics to Unasyn and monitor
   progress
   Atrial fibrillation: continue on amiodarone, Cardiology considering TEE
   cardioversion, on heparin iv
   Pulmonary embolus see on CTA on heparin iv
   Acute renal failure: creatinine trending up will monitor, urine output
   has improved this am, if continues to trend up will w/u wiht lytes etc.
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   16 Gauge - [**2171-2-13**] 08:50 PM
   Multi Lumen - [**2171-2-13**] 08:51 PM
   Arterial Line - [**2171-2-14**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr.[**Name (NI) 11614**]
   note above, including assessment and plan. I would add:
   57 yo male admitted with newly recognized biventricular failur, PE,
   atrial fibrillation and acute respiratory distress/hypoxia. Borderline
   low BP
s barred effective diuresis yesterday and sats were marginal on
   NRB though degree of hypoxia disproportionate to pt
s exam.
   For biventricular failure, BP improved today and will proceed with
   diuresis.
   For atrial fibrillation, adding digoxin for rate control. As
   restoration to sinus rhythm would improve cardiac fxn and allow for
   more effective diuresis, may be moving toward TEE/cardioversion.
   Remains on heparin for PE, unasyn for cellulitis.
   Hypoxia improved from yesterday though resp status still tenuous- some
   contribution from body positioning.
   Pt is critically ill.
   Total time spent: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2171-2-15**] 17:27 ------

2171-02-16 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Amio switched to Dig load per cards
   - TEE/cardioversion Scheduled for Monday
   - Diuresing well overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2171-2-13**] 08:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2171-2-14**] 12:00 AM
   Vancomycin - [**2171-2-15**] 08:50 AM
   Cefipime - [**2171-2-15**] 10:06 AM
   Ampicillin - [**2171-2-16**] 06:06 AM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2171-2-15**] 06:46 PM
   Morphine Sulfate - [**2171-2-16**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-2-16**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 106 (79 - 117) bpm
   BP: 129/84(99) {97/65(78) - 158/141(148)} mmHg
   RR: 14 (14 - 37) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,675 mL
                                                                  1,334 mL
   PO:
                                                                  2,120 mL
                                                                    900 mL
   TF:
   IVF:
                                                                  1,555 mL
                                                                    434 mL
   Blood products:
   Total out:
                                                                  4,565 mL
                                                                  2,180 mL
   Urine:
                                                                  4,565 mL
                                                                  2,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -890 mL
                                                                   -846 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   GEN:The patient is in no distress and appears comfortable
   SKIN:No rashes or skin changes noted
   HEENT: JVP no assessible because of large neck
   CHEST: decreased breath sounds at bases bilaterally
   CARDIAC: irregular, no murmurs
   ABDOMEN: Distended and moderately firmm..  Hyperactive bowel sounds.
   Nontender.  No rebound or guarding.
   EXTREMITIES:  2+ peripheral edema b/l, L shin with 8 cm area of open,
   weeping wound.  Surrounding warmth and erythem extending to most of
   lower leg.
   GENETALIa:  2+ scrotal, perineal, penile edema
   NEUROLOGIC: Alert and appropriate. CN II-XII grossly intact. BUE [**5-1**],
   and BLE [**5-1**] both proximally and distally. No pronator drift. Reflexes
   were symmetric. Downward going toes.
   Labs / Radiology
   212 K/uL
   12.3 g/dL
   110 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.4 mEq/L
   36 mg/dL
   102 mEq/L
   137 mEq/L
   37.7 %
   12.2 K/uL
        [image002.jpg]
                             [**2171-2-13**]  07:30 PM
                             [**2171-2-13**]  10:14 PM
                             [**2171-2-14**]  04:16 AM
                             [**2171-2-14**]  03:21 PM
                             [**2171-2-14**]  09:22 PM
                             [**2171-2-15**]  03:32 AM
                             [**2171-2-15**]  03:40 AM
                             [**2171-2-16**]  02:51 AM
   WBC
   14.3
   13.5
   14.3
   12.2
   Hct
   38.1
   35.0
   36.8
   37.7
   Plt
   [**Telephone/Fax (3) 11641**]12
   Cr
   1.2
   1.1
   1.4
   1.0
   TropT
   0.02
   TCO2
   19
   19
   19
   Glucose
   106
   99
   114
   110
   Other labs: PT / PTT / INR:19.0/106.7/1.7, CK / CKMB /
   Troponin-T:75//0.02, ALT / AST:144/183, Alk Phos / T Bili:185/2.0,
   Differential-Neuts:85.5 %, Lymph:10.2 %, Mono:3.5 %, Eos:0.5 %, Lactic
   Acid:2.1 mmol/L, Albumin:3.7 g/dL, LDH:400 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Microbiology: GRAM STAIN (Final [**2171-2-15**]):
         >25 PMNs and <10 epithelial cells/100X field.
         Gram stain indicates extensive contamination with upper
   respiratory
         secretions. Bacterial culture results are invalid.
         PLEASE SUBMIT ANOTHER SPECIMEN.
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 PNEUMONIA, OTHER
 PULMONARY EMBOLISM (PE), ACUTE
 CELLULITIS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Mr. [**Known lastname **] is a 57 year-old man with a history of hypertension who
   presents with progressive dyspnea, evidence of R heart failure, and
   hypoxia.
   .
   # CHF:  EF25%.  Cause EtOH vs tachycardia-induced vs idiopathic leading
   to hypoxia
   - obtain old TTE records from [**Hospital 11607**]
   - control HR as below
   - will need diuresis after BP stabilizes (holding off for tonight given
   tenuous BP and need for diltiazem gtt, as below)
   - broad-spectrum antibioitics with vancomycin and zosyn for possible
   PNA
   - continue heparin gtt for now until it is more clear whether PE may be
   contributing (also has afib and ? LAA clot so needs anticoagulation
   anyway)
   - sputum cultures
   - blood cultures
   - urine cultures
   - lasix if BP allows. Monitor UOP and if less then 100cc and SBP >100
   plan for 10mg IV lasix
   ..
   # Hypotension:  likely most cardiogenic shock.  Currently
   hemodynamically stable
   .
   # Atrial fibrillation:  Cause may be underlying septic process vs
   primary tachycardia related to septic picture.  Not therapeutically
   anticoagulated, although INR elevated not After 10 mg IV diltiazem
   followed by diltiazem gtt (initially at 15 mg/h, now at 5 mg/h), rate
   control is improved. afib - got 10 IV dilt, now on HR 100 on dilt gtt
   at 5 (15 at highest).  Also got 1.5 L IVF.  Pressures 90s-100s
   systolic.
   - amio gtt and will plan to start PO amio
   - appreciate cardiology recs
   - heparin gtt
   # LE cellulitis: likely initiated by burn injury, now worsening
   secondary to subcutaneous edema
   - will change to unasyn
   - blood cultures
   .
   # PNA:  appears to be infiltrate on CT rather than simply atelectasis
   around effusion.  Afebrile but leukocytosis and increased sputum.
   Received unasyn, vancomycin, levofloxacin in the ED.
   - Plan for Unasyn to cover cellulitis and PNA
   .
   # Elevated LFTs:  He may have congestive hepatopathy, but INR elevation
   indicates some degree of synthetic dysfunction.  Last LFTs NL at [**Hospital 11608**] in [**2165**].  No other known hx liver disease.  He does admit to
   significant tylenol use but uncertain how much.
   - hepatitis panel
   - check albumin
   - continue to trend
   .
   # PE: clinically meaningful. Pt is already on heparin gtt for a-fib
   .
   # FEN: cardiac diet PO
   # PPX: heparin gtt
   # ACCESS: PIV
   # CODE:  Full, discussed
   # CONTACT:  patient
   # DISPOSITION:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2171-2-13**] 08:50 PM
   Multi Lumen - [**2171-2-13**] 08:51 PM
   Arterial Line - [**2171-2-14**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-02-16 10:49:00 Physician Attending Progress Note
Chief Complaint: hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57M with chronic dyspnea p/w hypoxemia, anasarca found to have a new
   cardiomyopathy.
   24 Hour Events:
   Diuresed with lasix.
   Oxygen weaned to RA
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2171-2-13**] 08:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2171-2-14**] 12:00 AM
   Vancomycin - [**2171-2-15**] 08:50 AM
   Cefipime - [**2171-2-15**] 10:06 AM
   Ampicillin - [**2171-2-16**] 06:06 AM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2171-2-15**] 06:46 PM
   Morphine Sulfate - [**2171-2-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Edema
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Integumentary (skin): LLE cellulitis
   Psychiatric / Sleep: No(t) Agitated
   Pain: [**12-29**] Minimal
   Flowsheet Data as of  [**2171-2-16**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (96.9
   HR: 103 (79 - 114) bpm
   BP: 130/83(97) {108/65(78) - 158/141(310)} mmHg
   RR: 12 (12 - 37) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,675 mL
                                                                  1,421 mL
   PO:
                                                                  2,120 mL
                                                                    900 mL
   TF:
   IVF:
                                                                  1,555 mL
                                                                    521 mL
   Blood products:
   Total out:
                                                                  4,565 mL
                                                                  2,700 mL
   Urine:
                                                                  4,565 mL
                                                                  2,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -890 mL
                                                                 -1,279 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.42/33/86/28/-1
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 1+, LLE cellulitis
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   212 K/uL
   110 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.4 mEq/L
   36 mg/dL
   102 mEq/L
   137 mEq/L
   37.7 %
   12.2 K/uL
        [image002.jpg]
                             [**2171-2-13**]  07:30 PM
                             [**2171-2-13**]  10:14 PM
                             [**2171-2-14**]  04:16 AM
                             [**2171-2-14**]  03:21 PM
                             [**2171-2-14**]  09:22 PM
                             [**2171-2-15**]  03:32 AM
                             [**2171-2-15**]  03:40 AM
                             [**2171-2-16**]  02:51 AM
                             [**2171-2-16**]  07:46 AM
   WBC
   14.3
   13.5
   14.3
   12.2
   Hct
   38.1
   35.0
   36.8
   37.7
   Plt
   [**Telephone/Fax (3) 11641**]12
   Cr
   1.2
   1.1
   1.4
   1.0
   TropT
   0.02
   TCO2
   19
   19
   19
   22
   Glucose
   106
   99
   114
   110
   Other labs: PT / PTT / INR:19.0/106.7/1.7, CK / CKMB /
   Troponin-T:75//0.02, ALT / AST:144/183, Alk Phos / T Bili:185/2.0,
   Differential-Neuts:85.5 %, Lymph:10.2 %, Mono:3.5 %, Eos:0.5 %, Lactic
   Acid:2.1 mmol/L, Albumin:3.7 g/dL, LDH:400 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: Dig 0.7
   Assessment and Plan
   > Cardiomyopathy:
   Continue diuresis with better BP today for net neg 1-2L/day.  Hypoxemia
   is improved.
 ATRIAL FIBRILLATION (AFIB):
   Better rate control.  Cont dig.
   Plan for TEE and cardioversion monday
   Cont heparin gtt
 CELLULITIS:
   continue unasyn
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):
   Continue morphine prn.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-2-13**] 08:51 PM
maintain for now given frequent blood
   draws
   Arterial Line - [**2171-2-14**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   ------ Protected Section ------
   MICU Attending Progress note:
   I saw and examined the pt on rounds, and was present with the ICU team
   for the key portions of services provided. I agree with Dr. [**Last Name (STitle) **]
   note above, including assessment and plan.
   I would add:
   57 yo male with acute on chronic respiratory distress, dx
d with newly
   recognized biventricular CHF (idiopathic vs viral vs EtOH), atrial
   fibrillation, cellulitis
   1.       Cardiomyopathy; Diuresed yesterday with improvement, suppl.
   Oxygen weaned from NRB upon presentation to 0-2 liters currently. Plan
   continued diuresis, consider Ace/BB at later date
   2.       Atrial fibrillation: rate controlled, on digoxin, planning for
   TEE/ elective c.v. if he doesn
t convert to sinus rhythm
   3.       PE: small subsegmental PE
s seen by CT-A. Pt on heparin
   4.       Cellulitis: on unasyn
   Appears stable for transfer to floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2171-2-16**] 18:56 ------